US05486512
Five grams of the above solid 4,6-dichloro-2-aminobenzyl chloride hydrochloride was heated with 10 mL of 2-chloropyridine in 25 mL of chlorobenzene. The reaction was followed by TLC (300:20:1 chloroform/methanol/28% aqueous ammonia). When the reaction was complete, the reaction mixture was concentrated in vacuo (cold trap). The residue was basified with saturated aqueous potassium carbonate and distributed between 50 mL of chloroform and 50 mL of water. The chloroform layer was separated, dried with anhydrous potassium carbonate and concentrated in vacuo. The brown residue was chromatographed using the above solvent system and the appropriate fractions were concentrated in vacuo to give a yellow solid. This was treated with one equivalent of 4N hydrochloric acid and coevaporated with 50 mL of absolute ethanol. The residue was recrystallized from absolute ethanol-ethyl acetate mixture to give the hydrochloride of 1,3-dichloro-11H-pyrido[2,1-b]quinazoline.

reactant | 4,6-dichloro-2-aminobenzyl chloride hydrochloride | Cl.ClC1=CC(=C(CCl)C(=C1)Cl)N
reactant | 2-chloropyridine | 10 mL | ClC1=NC=CC=C1 | C5H4ClN
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
reactant | hydrochloric acid | 4N, one equivalent | Cl | ClH
solvent | chlorobenzene | 25 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 1,3-dichloro-11H-pyrido[2,1-b]quinazoline | ClC1=C2CN3C(=NC2=CC(=C1)Cl)C=CC=C3 | C12H8Cl2N2
